US06562807B2
Step 2: Resin Bound (R)-3-(4-Formylbenzoylamino)-2-hydroxypropionic Acid
To the above resin bound (R)-Fmoc-isoserine was added 500 μL of a 20% solution of piperidine in DMF. Upon shaking for 30 min, the resin was drained and washed with N-methyl-2-pyrrolidinone (6×1 mL). Then 200 μmol 4-formylbenzoic acid (30 mg) and 200 μmol HOBt (31 mg) were dissolved in N-methyl-2-pyrrolidinone (500 μL) and added to the resin followed by 200 μmol diisopropyl carbodiimide (25.2 mg) dissolved in acetonitrile (500 μL). The mixture was shaken for 4 hours at 25° C. followed by filtration and washing of the resin with N-methyl-2-pyrrolidinone (3×1 mL).

reactant | (R)-Fmoc-isoserine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NC[C@@H](O)C(=O)O | C18H17NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-formylbenzoic acid | 200 μmol, 30 mg | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | HOBt | 200 μmol, 31 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropyl carbodiimide | 200 μmol, 25.2 mg | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | N-methyl-2-pyrrolidinone | 500 μL | CN1C(CCC1)=O | C5H9NO
solvent | acetonitrile | 500 μL | C(C)#N | C2H3N
product | (R)-3-(4-Formylbenzoylamino)-2-hydroxypropionic Acid | C(=O)C1=CC=C(C(=O)NC[C@H](C(=O)O)O)C=C1 | C11H11NO5
